US06117841
[S-(R*,R*)]-3-(4-Benzyloxy-phenyl)-2-[4-methyl-2-(tetrahydro-pyran-4-ylamino)-pentanoylamino]-propionic acid tert-butyl ester
A solution of [S-(R*,R*)]-3-(4-benzyloxy-phenyl)-2-{2-[(9H-fluoren-9-ylmethyl)-amino]-4-methyl pentanoylamino}-propionic acid tert-butyl ester (12.2 g, 20.0 mmol) in 500 mL of tetrahydrofuran was treated with piperidine (80 mL). The resulting solution was stirred at room temperature for 48 hours. The reaction mixture was concentrated and the residue purified by chromatography (SiO2, gradient elution EtOAc - 15% EtOH/EtOAc). The resulting yellow solid was broken up in heptane to give the title compound as a white solid (6.77 g, 77%).

reactant | 3-(4-benzyloxy-phenyl)-2-{2-[(9H-fluoren-9-ylmethyl)-amino]-4-methyl pentanoylamino}-propionic acid tert-butyl ester | 20.0 mmol, 12.2 g | C(C)(C)(C)OC(C(CC1=CC=C(C=C1)OCC1=CC=CC=C1)NC(C(CC(C)C)NCC1C2=CC=CC=C2C=2C=CC=CC12)=O)=O | C40H46N2O4
reactant | piperidine | 80 mL | N1CCCCC1 | C5H11N
reactant | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
product | 3-(4-Benzyloxy-phenyl)-2-[4-methyl-2-(tetrahydro-pyran-4-ylamino)-pentanoylamino]-propionic acid tert-butyl ester | 6.77 g, 77% | C(C)(C)(C)OC(C(CC1=CC=C(C=C1)OCC1=CC=CC=C1)NC(C(CC(C)C)NC1CCOCC1)=O)=O | C31H44N2O5
